US07750002B2
Amine preparation: to a solution of 2,6-dimethylpiperazine (predominantly cis) (250 mg), tert-butanol (2.5 mL), sodium hydroxide (88 mg) and water (0.5 mL) was added a solution of di-tert-butyl-dicarbonate (478 mg) in tert-butanol (0.5 mL). After stirring overnight, the reaction mixture was diluted with ethyl acetate, washed with brine, dried (MgSO4) and the solvent was removed in vacuo to yield (3R,5S)-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (400 mg).

reactant | 2,6-dimethylpiperazine | CC1NC(CNC1)C | C6H14N2
reactant | sodium hydroxide | 88 mg | [OH-].[Na+]
reactant | water | 0.5 mL | O | H2O
reactant | di-tert-butyl-dicarbonate | 478 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 0.5 mL | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tert-butanol | 2.5 mL | C(C)(C)(C)O | C4H10O
product | (3R,5S)-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 400 mg | C(C)(C)(C)OC(=O)N1C[C@H](N[C@H](C1)C)C | C11H22N2O2
